US04797471
(b) Ac-Orn(Boc)-Pro-Gly-OBzl
6.4 g of H-Pro-Gly-OBzl, 4.6 g of Ac-Orn(Boc)-OH, 3.0 ml of NEM and 3.1 g of HOBt are dissolved in 30 ml of EA and then 4.8 g of DCC in 10 ml of EA are added. After the mixture has been stirred at room temperature for 24 hours, it is filtered and the filtrate is evaporated. Chromatography of the residue on silica gel (system 1) results in 4.7 g (yield: 41%) of the desired compound being isolated as a colorless powder. Rf (system 1)=0.3; MS (FAB): 519 (M+1).

reactant | H-Pro-Gly-OBzl | 6.4 g | N1[C@H](C(=O)NCC(=O)OCC2=CC=CC=C2)CCC1 | C14H18N2O3
reactant | Ac-Orn(Boc)-OH | 4.6 g | N([C@@H](CCCNC(=O)OC(C)(C)C)C(=O)O)C(=O)C | C12H22N2O5
reactant | HOBt | 3.1 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DCC | 4.8 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | EA | 30 ml | CC(OCC)=O | C4H8O2
solvent | EA | 10 ml | CC(OCC)=O | C4H8O2
product | Ac-Orn(Boc)-Pro-Gly-OBzl | 4.7 g, yield: 41% | N([C@@H](CCCNC(=O)OC(C)(C)C)C(=O)N1[C@H](C(=O)NCC(=O)OCC2=CC=CC=C2)CCC1)C(=O)C | C26H38N4O7
